US07084123B2
To a solution of 1-(benzyloxycarbonyl)-3-(6-O-ethoxycarbonyl-β-D-glucopyranosyloxy)-4-[(4-isopropoxyphenyl)methyl]-5-methylpyrazole (0.17 g) in tetrahydrofuran (4 mL) was added 10% palladium-carbon powder, and the mixture was stirred under hydrogen atmosphere at room temperature for 3 hours. The resulting insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=10/1) to give 3-(6-O-ethoxycarbonyl-β-D-glucopyranosyloxy)-4-[(4-isopropoxyphenyl)methyl]-5-methyl-1H-pyrazole (00.10 g).

reactant | 1-(benzyloxycarbonyl)-3-(6-O-ethoxycarbonyl-β-D-glucopyranosyloxy)-4-[(4-isopropoxyphenyl)methyl]-5-methylpyrazole | 0.17 g | C(C1=CC=CC=C1)OC(=O)N1N=C(C(=C1C)CC1=CC=C(C=C1)OC(C)C)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)COC(=O)OCC | C31H38N2O11
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
catalyst | palladium-carbon | [C].[Pd]
product | 3-(6-O-ethoxycarbonyl-β-D-glucopyranosyloxy)-4-[(4-isopropoxyphenyl)methyl]-5-methyl-1H-pyrazole | C(C)OC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@@H](O1)OC1=NNC(=C1CC1=CC=C(C=C1)OC(C)C)C)O)O)O | C23H32N2O9
